US04166854
A mixture of 10.5 g (0.046 mole) 1-(5-chloro-2-pyridinyloxy)-3,3-dimethyl-2-butanone, prepared above, and 8.37 g (0.047 mole) N-bromosuccinimide (NBS) in 300 ml. carbon tetrachloride, with stirring, was irradiated and heated with a sunlamp until all of the NBS was consumed (about 45 min.). The reaction mixture was cooled, filtered, and the filtrate washed with aqueous sodium bisulfite and dried. After removal of the solvent, there was obtained a quantitative yield of 1-bromo-1-(5-chloro-2-pyridinyloxy)-3,3-dimethyl-2-butanone, a light yellow oil.

reactant | 1-(5-chloro-2-pyridinyloxy)-3,3-dimethyl-2-butanone | 0.046 mole, 10.5 g | ClC=1C=CC(=NC1)OCC(C(C)(C)C)=O | C11H14ClNO2
reactant | N-bromosuccinimide | 0.047 mole, 8.37 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromo-1-(5-chloro-2-pyridinyloxy)-3,3-dimethyl-2-butanone | quantitative yield | BrC(C(C(C)(C)C)=O)OC1=NC=C(C=C1)Cl | C11H13BrClNO2
